US05908842
EXAMPLE 16 N-(2-Pyridyl)-N'-(diethylaminosulfonyl)-urea
This example was prepared according to the general procedure described by Karady et al. in Heterocycles, 1979, 12, 815-818. To a solution of 2-aminopyridine (5.0 g, 0.053 mol) in acetonitrile (17.5 mL) cooled to 0° C. was added chlorosulfonylisocyanate (4.5 mL) while maintaining the temperature between -5 and +5° C. A very thick precipitate formed. The cooling bath was removed, and the reaction mixture was allowed to warm to room temperature. The mixture was re-cooled to 0° C., and diisopropylethylamine (8 mL, 0.046 mol) was added dropwise with stirring while maintaining the internal temperature between -5 and +5° C. An additional 0.85 mL of diisopropylethylamine was added, and the mixture was allowed to warm to room temperature and stirred overnight. The solid that formed was filtered, washed with cold acetonitrile, and dried in vacuo; yield 6.0 g. To a mixture of this 1,2,4,6-thiatriazene-1,1-dioxide (2.0 g, 0.010 mol) in acetonitrile (60 mL) was added diethylamine (0.97 mL, 9.38 mmol). The reaction mixture was stirred overnight at room temperature and evaporated. The resulting solid was triturated with methanol, filtered, washed with diethyl ether, and dried in vacuo; yield 1.6 g (55%).

reactant | 2-aminopyridine | 0.053 mol, 5.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | chlorosulfonylisocyanate | 4.5 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | diisopropylethylamine | 0.046 mol, 8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisopropylethylamine | 0.85 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diethylamine | 9.38 mmol, 0.97 mL | C(C)NCC | C4H11N
solvent | acetonitrile | 17.5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | N-(2-Pyridyl)-N'-(diethylaminosulfonyl)-urea | N1=C(C=CC=C1)NC(=O)NS(=O)(=O)N(CC)CC | C10H16N4O3S
